US04940710
7-[3-(3,5-Dimethyl-2-furanyl)-1-piperazinyl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
The 1.4 g of 2-(3,5-dimethyl-2-furanyl)piperazine was dissolved in 5 ml of pyridine, 0.66 g of 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid added and the mixture heated at 95°-100° C., under argon, in a pressure bottle for 4 hours, then cooled. The solvent was removed in vacuo, the residue evaporated twice from toluene and the residue chromatographed, giving 700 mg of crude product. This product was recrystallized from methanol, giving 220 mg of the desired product, mp 230°-232° C.

reactant | 2-(3,5-dimethyl-2-furanyl)piperazine | 1.4 g | CC1=C(OC(=C1)C)C1NCCNC1 | C10H16N2O
reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.66 g | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 7-[3-(3,5-Dimethyl-2-furanyl)-1-piperazinyl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 220 mg | CC1=C(OC(=C1)C)C1CN(CCN1)C1=C(C=C2C(C(=CNC2=C1)C(=O)O)=O)F | C20H20FN3O4
